US05696239
PREPARATION OF UNSYMMETRICAL ETHYLENEDIAMINEDIACETIC ACID.
Deionized water (60.6 g), 98% N-acetylethylene-diamine (20.4 g, 0.2 mole), and bromoacetic acid (55.7 g, 0.40 mole) were added to a reaction vessel and cooled in an ice-water bath. The pH of the mix was adjusted, while stirring, to approximately 8.1 with 25% sodium hydroxide solution. The temperature of the mix was maintained at less than 20° C. during the caustic addition. The ice-water bath was removed and the pH maintained between 7 and 8 by the addition of 25% sodium hydroxide solution. The temperature was controlled at less than 37° C. by periodically cooling with an ice-water bath. The reaction mixture was stirred and maintained as above for approximately 31 hours and then transferred to a round-bottom reaction flask equipped with a water-cooled reflux condenser, magnetic stirrer bar, thermometer, addition funnel and a heating mantle. Sodium hydroxide solution (40.1 g of 50% solution) was added and the mix heated, with stirring, at reflux for approximately 15 hours and then cooled and filtered using a medium glass frit funnel and vacuum. The filtrate was transferred quantitatively (using deionized water) to a beaker and cooled in an ice-bath to less than 25° C. Deionized water (100 ml) was added with stirring and the pH adjusted to approximately 4 with concentrated hydrochloric acid while maintaining the temperature at less than 25° C. The mix was filtered using a medium glass frit funnel and vacuum. Approximately 1200 ml of ethanol were added to a large beaker and stirred with a magnetic stirrer bar. The filtrate from above was added to the ethanol with thorough mixing. An oily material forms which gradually turns into a white solid. Agitation was continued for two hours at which time the solids were collected by filtering using a medium glass frit funnel and vacuum. The solids were allowed to dry by exposure to air for about 1.5 hours and then placed in a vacuum oven and dried at 55°-60° C. for several hours. Approximately 42.9 g of white solids containing inorganic salt were collected and identified as unsymmetrical ethylenediaminediacetic acid by proton and carbon NMR.

reactant | N-acetylethylene-diamine | 0.2 mole, 20.4 g | C(C)(=O)NCCN | C4H10N2O
reactant | bromoacetic acid | 0.40 mole, 55.7 g | BrCC(=O)O | C2H3BrO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 60.6 g | O | H2O
product | ETHYLENEDIAMINEDIACETIC ACID | C(CNCC(=O)O)NCC(=O)O | C6H12N2O4
